US08957069B2
1-(7-Methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-4-[4-(trifluoromethyl)phenyl]piperazine
By using 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (436 mg, 1.50 mmol) synthesized in Reference example 96 and 1-bromo-4-(trifluoromethyl)benzene (506 mg, 2.25 mmol), the reaction was carried out in the same manner as Reference example 59 to synthesize the title compound 389 mg (yield 40%). Melting point was 186 to 187° C. (hexane).

reactant | 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.50 mmol, 436 mg | COC1=C(C(=C(C=2CC(OC21)(C)C)C)N2CCNCC2)C | C17H26N2O2
reactant | 1-bromo-4-(trifluoromethyl)benzene | 2.25 mmol, 506 mg | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
product | 1-(7-Methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-4-[4-(trifluoromethyl)phenyl]piperazine | 389 mg, yield 40% | COC1=C(C(=C(C=2CC(OC21)(C)C)C)N2CCN(CC2)C2=CC=C(C=C2)C(F)(F)F)C | C24H29F3N2O2
